US07915415B2
The above compound, 10-methyl-phenanthridinone (4.0 grams, 19 mmole) was added to a reaction flask containing phosphorus pentachloride (6.0 grams, 0.29 mole) and phosphoryl chloride (50 mL). The reaction mixture was refluxed for 4 hours, cooled to room temperature and diluted with toluene. The excess phosphoryl chloride and toluene were removed by a rotary evaporator. The residue was dissolved into ethyl acetate and washed with distilled water followed by brine. The solvent layer was dried over magnesium sulfate, filtered and concentrated to give 6-chloro-10-methylphenanthridine (4.1 grams, 95%) as an off-white solid. The product was confirmed by Mass Spec and NMR and not purified further but used directly in the next step.

reactant | 10-methyl-phenanthridinone | 19 mmole, 4.0 grams | CC1=CC=CC2=CN=C3C=CCC(C3=C12)=O | C14H11NO
reactant | phosphorus pentachloride | 0.29 mole, 6.0 grams | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphoryl chloride | 50 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-10-methylphenanthridine | 4.1 grams, 95% | ClC=1N=C2C=CC=CC2=C2C(=CC=CC12)C | C14H10ClN
